US07101895B2
To a stirred solution of N-benzhydryl-azetidin-3-ol (3.56 g, 14.9 mmol.) in dichloromethane (60 mL) was added acetic anhydride (2.1 mL, 22.4 mmol.), triethylamine (3.1 mL, 22.4 mmol.) and dimethylaminopyridine (ca. 10 mg). The mixture was stirred for 3 hours then diluted with ethyl acetate (200 mL) and washed with saturated aqueous ammonium chloride solution (100 mL), 1N aqueous sodium hydroxide (100 mL) and brine (100 mL), dried (MgSO4) and evaporated to leave N-benzhydryl-3-acetoxy-azetidine (4.2 g) which was used without further purification.

reactant | N-benzhydryl-azetidin-3-ol | 14.9 mmol, 3.56 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | acetic anhydride | 22.4 mmol, 2.1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 22.4 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | dimethylaminopyridine | ca. 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | N-benzhydryl-3-acetoxy-azetidine | 4.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC(C)=O | C18H19NO2
